US06531491B1
To fuming nitric acid (1 ml) cooled to −40° C. was added TFA (1 ml). The resulting mixture was allowed to warm slightly to −35° C. and 2,4-dimethyl phenyl boronic acid (150 mg, 1 mmol) was added in one portion. After 1 h, ice was added and the heterogenous mixture was filtered. The resulting solid was suspended in Et2O and extracted with 3N NaOH (aq) (1 ml) then water (2 ml). The aqueous phase was acidified with 3N HCl (aq) (1 ml) and back extracted with EtOAc (3×5 ml). The pooled organics were washed with brine, dried with Na2SO4 decanted and concentrated to give 2,4-dimethyl-5-nitro-phenyl boronic acid (93 mg, 47%). LCMS (ESI+) [M+H]/z Calc'd 196, found 196.

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,4-dimethyl phenyl boronic acid | 1 mmol, 150 mg | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
product | 2,4-dimethyl-5-nitro-phenyl boronic acid | 93 mg, 47% | CC1=C(C=C(C(=C1)C)[N+](=O)[O-])B(O)O | C8H10BNO4
